US08492414B2
3-(2-(Benzyloxy)-4-chlorophenyl)-5-(bromomethyl)-1,2,4-thiadiazole (IX)
To a solution of (3-(2-(benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazol-5-yl) methanol (0.35 g, 1.05 mmol) in toluene (10 ml) was added PBr3 (0.16 ml, 1.58 mmol) and the resulting reaction mixture was heated at 100° C. for 15 min. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C., added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organics was washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated under vacuum to get the desired product (0.33 g, 79% crude yield), that was carried forward as such for the next step. MS: 395.05 (M+H)+.

reactant | (3-(2-(benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazol-5-yl) methanol | 1.05 mmol, 0.35 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(=N1)CO | C16H13ClN2O2S
reactant | PBr3 | 1.58 mmol, 0.16 ml | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-(Benzyloxy)-4-chlorophenyl)-5-(bromomethyl)-1,2,4-thiadiazole | 0.33 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(=N1)CBr | C16H12BrClN2OS
